US08440689B2
C. 4,6-Dichloro-7-fluoro-1H-pyrrolo[3,4-c]pyridin-3(2H)-one
A 22-L 3-neck RBF equipped with overhead stirrer, refluxing condenser, and N2 inlet/outlet, and having all glass or PTFE-coated parts, was sequentially charged with 4,6-dichloro-7-fluoro-1-hydroxy-1H-pyrrolo[3,4-c]pyridin-3(2H)-one (908 g), DCM (4.55 L), and TFA (3.46 L, 11.76 eq). Agitation was started and Et3SiH (3.05 L, 4.97 eq) was added. The cloudy mixture was heated to reflux, resulting in a clear solution that was stirred at refluxing conditions for 24 h. The mixture was cooled to RT and stirred overnight. The orange solution was cooled to <10° C. using an ice bath. Methyl tert-butyl ether (14.0 L) was added via a peristaltic pump within a 1 h period. The resultant slurry was stirred at <10° C. for 1 h and then filtered through a coarse fitted glass funnel. The filter cake was washed with MTBE (2×4 L). The solid was dried under high vacuum at RT for 19 h to afford the title compound (802 g, 94%). 1H NMR (500 MHz, DMSO-d6) δ ppm 4.55 (s, 2H), 9.15 (s, 1H). [M+H] calc'd for C7H3Cl2FN2O, 221. found, 221.

reactant | 4,6-dichloro-7-fluoro-1-hydroxy-1H-pyrrolo[3,4-c]pyridin-3(2H)-one | 908 g | ClC1=NC(=C(C2=C1C(NC2O)=O)F)Cl | C7H3Cl2FN2O2
reactant | DCM | 4.55 L | C(Cl)Cl | CH2Cl2
reactant | TFA | 3.46 L, 11.76 eq | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | Et3SiH | 3.05 L, 4.97 eq | [SiH](CC)(CC)CC | C6H16Si
solvent | Methyl tert-butyl ether | 14.0 L | C(C)(C)(C)OC | C5H12O
product | 4,6-Dichloro-7-fluoro-1H-pyrrolo[3,4-c]pyridin-3(2H)-one | 802 g, 94% | ClC1=NC(=C(C2=C1C(NC2)=O)F)Cl | C7H3Cl2FN2O
